US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-bi-phenylyl)-imidazole dihydrochloride
Analogously to Example 2, a mixture of 9.27 g (18.54 mmol) of 1-[4-(N-hydroxy-amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-biphenylyl)-imidazole dihydrochloride, 800 ml of water, 820 ml of methanol and 7.3 g of Raney nickel is hydrogenated at 25°-51° C. and under normal pressure until the absorption of hydrogen has ceased. The reaction mixture is then filtered, the filtrate is acidified to pH 1 with concentrated hydrochloric acid, and concentration is carried out by evaporation in vacuo. Recrystallization of the residue twice from ethanol yields the title compound, m.p. 269°-270° C. (decomp.), 1H-NMR (DMSO/D2O): δ=8.32 (d, 1H); 8.03 (s, 1H); 7.62-7.83 (m, 8H); 7.35-7.53 (m, 3H); 3.36 (s, 4H).

reactant | 1-[4-(N-hydroxy-amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-biphenylyl)-imidazole dihydrochloride | 18.54 mmol, 9.27 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)C1=CC=CC=C1)N
reactant | water | 800 ml | O | H2O
catalyst | Raney nickel | 7.3 g | [Ni] | Ni
solvent | methanol | 820 ml | CO | CH4O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-bi-phenylyl)-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)C1=CC=CC=C1)N | InChI=1S/C25H22N6.2ClH/c26-24(27)21-8-4-7-20-19(21)13-14-22(20)30-31-15-23(29-25(31)28)18-11-9-17(10-12-18)16-5-2-1-3-6-16;;/h1-12,15H,13-14H2,(H3,26,27)(H2,28,29);2*1H
